US07468371B2
N-prop-2-ynylaniline
A solution of propargyl bromide (0.11 mL, 1 mmol) and aniline (0.46 mL, 5 mmol) in ethanol (2 mL) was stirred at room temperature for about 5 days. The solvent was concentrated under vacuum and the residue was purified by flash chromatography on silica gel using hexane/ethyl acetate (20:1) as eluent to provide Example 640. MS (ESI): m/z 132 (M+H)+.

reactant | propargyl bromide | 1 mmol, 0.11 mL | C(C#C)Br | C3H3Br
reactant | aniline | 5 mmol, 0.46 mL | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-prop-2-ynylaniline | C(C#C)NC1=CC=CC=C1 | C9H9N
